US06933311B2
N-[4-(1-azepanyl)-3-fluorobenzyl]-2-(5-isoquinolinyl)butanamide
The title compound was prepared using the procedure described in Example 222B using 4-(1-azepanyl)-3-fluorobenzylamine and 2-(5-isoquinolinyl)butanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 420 (M+H)+; MS (ESI−) m/z 418 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 0.90 (t, J 7.5, 3H), δ 1.55 (m, 4H), 1.76 (m, 6H), 2.20 (m, 1H), 3.34 (m, 5H), 4.18 (m, 2H), 6.81 (m, 1H), 7.62 (m, 1H), 8.00 (m, 2H), 8.27 (d, J 7.1, 1H), 8.45 (d, 1H), 8.77 (d, 1H), 8.82 (m, 1H), 9.90 (s, 1H), 10.18 (br s, 1H); Anal. Calcd for C26H30FN3O+0.45H2O: C, 73.02; H, 7.28. Found: C, 73.05; H, 7.20.

reactant | 4-(1-azepanyl)-3-fluorobenzylamine | N1(CCCCCC1)C1=C(C=C(CN)C=C1)F | C13H19FN2
reactant | 2-(5-isoquinolinyl)butanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)CC | C13H13NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-[4-(1-azepanyl)-3-fluorobenzyl]-2-(5-isoquinolinyl)butanamide | N1(CCCCCC1)C1=C(C=C(CNC(C(CC)C2=C3C=CN=CC3=CC=C2)=O)C=C1)F | C26H30FN3O
